US03974176
6.9 g of 5-chloro-3-p-chlorophenyl-1-phenyl-pyrazole-4-acetic acid, 70 ml of ethanol and 4 g of concentrated sulfuric acid are heated at boiling for 8 hours. The liquid is reduced in volume, poured into water and ice, extracted with ether, washed with sodium carbonate solution, the organic solution is dried and reduced in volume. Ethyl 5-chloro-3-p-chlorophenyl-1-phenyl-pyrazole-4-acetate is obtained with a yield of 85%; F 51.5°-52.5°.

reactant | 5-chloro-3-p-chlorophenyl-1-phenyl-pyrazole-4-acetic acid | 6.9 g | ClC1=C(C(=NN1C1=CC=CC=C1)C1=CC=C(C=C1)Cl)CC(=O)O | C17H12Cl2N2O2
reactant | ethanol | 70 ml | C(C)O | C2H6O
reactant | sulfuric acid | 4 g | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | Ethyl 5-chloro-3-p-chlorophenyl-1-phenyl-pyrazole-4-acetate | yield of 85% | ClC1=C(C(=NN1C1=CC=CC=C1)C1=CC=C(C=C1)Cl)CC(=O)OCC | C19H16Cl2N2O2
